** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/main.sch
.subckt main VDD b0 out b1 b2 GND
*.PININFO VDD:I GND:I b0:I b1:I b2:I out:O
x5 b0 b1 b2 VDD v_dac GND DAC3bit
x1 VDD v_dac out GND otaSys_5t_sky130
.ends

* expanding   symbol:  DAC3bit.sym # of pins=6
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/DAC3bit.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/DAC3bit.sch
.subckt DAC3bit b0 b1 b2 VDD out GND
*.PININFO out:O b0:I b1:I b2:I GND:I VDD:I
XR1 GND net3 sky130_fd_pr__res_generic_po W=1 L=21
XR2 net3 net1 sky130_fd_pr__res_generic_po W=1 L=21
XR3 b0 net4 sky130_fd_pr__res_generic_po W=1 L=21
XR4 net4 net1 sky130_fd_pr__res_generic_po W=1 L=21
XR5 b1 net5 sky130_fd_pr__res_generic_po W=1 L=21
XR6 net5 net2 sky130_fd_pr__res_generic_po W=1 L=21
XR7 b2 net6 sky130_fd_pr__res_generic_po W=1 L=21
XR8 net6 vx sky130_fd_pr__res_generic_po W=1 L=21
XR9 net1 net2 sky130_fd_pr__res_generic_po W=1 L=21
XR10 net2 vx sky130_fd_pr__res_generic_po W=1 L=21
XR12 VDD out sky130_fd_pr__res_generic_po W=1 L=21
XR13 out GND sky130_fd_pr__res_generic_po W=1 L=21
XR11 out vx sky130_fd_pr__res_generic_po W=1 L=63
.ends


* expanding   symbol:  otaSys_5t_sky130.sym # of pins=4
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaSys_5t_sky130.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaSys_5t_sky130.sch
.subckt otaSys_5t_sky130 VDD in out GND
*.PININFO out:O in:I GND:I VDD:I
x1 VDD net1 net2 in GND ota_5t_sky130
x2 VDD out net1 net2 GND ota_5t_sky130
x3 VDD net1 net2 out GND ota_5t_sky130
x4 VDD out out net2 GND otaq_5t_sky130
XC1 net1 GND sky130_fd_pr__cap_mim_m3_1 W=30 L=30 m=4
XR1 VDD net2 GND sky130_fd_pr__res_high_po_1p41 L=88.83 mult=1
XR2 net2 GND GND sky130_fd_pr__res_high_po_1p41 L=88.83 mult=1
XC2 out GND sky130_fd_pr__cap_mim_m3_1 W=24 L=24
XC3 out GND sky130_fd_pr__cap_mim_m3_1 W=24 L=24
.ends


* expanding   symbol:  ota_5t_sky130.sym # of pins=5
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/ota_5t_sky130.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/ota_5t_sky130.sch
.subckt ota_5t_sky130 VDD VOUT VINP VINN GND
*.PININFO VINP:I VINN:I VOUT:O VDD:I GND:I
XM5 V5 VDD GND GND sky130_fd_pr__nfet_01v8 L=1.475 W=4 nf=1
XM1 net1 VINP V5 GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1
XM2 VOUT VINN V5 GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1
XM4 VOUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1
XM6 VDD VDD GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1
.ends


* expanding   symbol:  otaq_5t_sky130.sym # of pins=5
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaq_5t_sky130.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaq_5t_sky130.sch
.subckt otaq_5t_sky130 VDD VOUT VINP VINN GND
*.PININFO VINP:I VINN:I VOUT:O VDD:I GND:I
XM5 net2 VDD GND GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1
XM1 net1 VINP net2 GND sky130_fd_pr__nfet_01v8 L=7 W=0.5 nf=1
XM2 VOUT VINN net2 GND sky130_fd_pr__nfet_01v8 L=7 W=0.5 nf=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=7 W=1 nf=1
XM4 VOUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=7 W=1 nf=1
XM6 VDD VDD GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1
.ends

